US07547691B2
2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide
Diisopropylethylamine (1.10 mL, 5.78 mmol) and 1-(3-aminopropyl)-4-methylpiperazine (545 mg, 3.47 mmol) are added to a stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide (1.14 g, 2.89 mmol) in dry 1,4-dioxane (25 mL) at room temperature. The resultant mixture is heated in an oil bath at 97° C. for 2 days. At room temperature the mixture is filtered off and the solid is washed with MeOH to give the title compound as a solid (600 mg, 33% yield). The filtrate is concentrated and the residue is purified by HLB cartridge eluting with NH4HCO3 (pH=8) in CH3CN 1:0 to 0:1, and then by Stratta® column, eluting with dichloromethane in MeOH 12:1 to 4:1, to give an additional 339 mg of the title compound as a yellow solid. ES+(m/z) 515 (35Cl) and 517 (37Cl) [M+H].

reactant | Diisopropylethylamine | 5.78 mmol, 1.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-aminopropyl)-4-methylpiperazine | 3.47 mmol, 545 mg | NCCCN1CCN(CC1)C | C8H19N3
reactant | 2-(2,5-dichloropyrimidin-4-yl)-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide | 2.89 mmol, 1.14 g | C1(CC1)NC(=O)C1=CC=C(C=2SC(=CC21)C2=NC(=NC=C2Cl)Cl)OC | C17H13Cl2N3O2S
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-7-methoxybenzo[b]thiophene-4-carboxylic acid cyclopropylamide | 600 mg, 33% yield | C1(CC1)NC(=O)C1=CC=C(C=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C)OC | C25H31ClN6O2S
